US06013658
((1R)-1-((1R)-1-(4-Carbamoyl-5-phenyl-1,3-thiazol-2-yl)-2-(2-naphthyl)ethylcarbamoyl)-2-(2-naphthyl)ethyl)carbamic acid tert-butylester (0.22 g; 0.328 mmol) was dissolved in methylene chloride (2.5 ml) and trifluoroacetic acid (2.5 ml) was added. The reaction mixture was stirred 1 h at room temperature and the solvent was removed in vacuo. The residue was dissolved in methylene chloride and evaporated (2×5 ml). The residue was dissolved in methylene chloride (10 ml) and washed with sodium hydrogencarbonate (satd; 10 ml), water (10 ml) and dried (magnesium sulfate). The solvent was removed in vacuo to afford 0.155 g of 2-((1R)-1-((2R)-2-amino-3-(2-naphthyl)propionylamino)-2-(2-naphthyl)ethyl)-5-phenyl-1,3-thiazole-4-carboxylic acid amide.

reactant | ((1R)-1-((1R)-1-(4-Carbamoyl-5-phenyl-1,3-thiazol-2-yl)-2-(2-naphthyl)ethylcarbamoyl)-2-(2-naphthyl)ethyl)carbamic acid tert-butylester | 0.328 mmol, 0.22 g | C(C)(C)(C)OC(N[C@H](CC1=CC2=CC=CC=C2C=C1)C(N[C@H](CC1=CC2=CC=CC=C2C=C1)C=1SC(=C(N1)C(N)=O)C1=CC=CC=C1)=O)=O | C40H38N4O4S
reactant | trifluoroacetic acid | 2.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 2.5 ml | C(Cl)Cl | CH2Cl2
product | 2-((1R)-1-((2R)-2-amino-3-(2-naphthyl)propionylamino)-2-(2-naphthyl)ethyl)-5-phenyl-1,3-thiazole-4-carboxylic acid amide | 0.155 g | N[C@@H](C(=O)N[C@H](CC1=CC2=CC=CC=C2C=C1)C=1SC(=C(N1)C(=O)N)C1=CC=CC=C1)CC1=CC2=CC=CC=C2C=C1 | C35H30N4O2S
